US06458347B1
Production of compound (22) was conducted in substantially the same manner as in step 1 of Example 6. That is, Gly-Phe (manufactured and sold by PEPTIDE INSTITUTE INC., Japan, 1.1 g, 5 mmol) was dissolved in a mixture of 2 ml of H2O, 2 ml of 2-propanol and 1.5 ml of diethylamine, to obtain a solution. To the obtained solution was portionwise added trityl chloride (1.8 g, 6.5 mmol), followed by stirring for one hour. To the resultant reaction mixture was added H2O, to thereby generate a precipitate. The generated precipitate was collected, washed with water and then dissolved into 5 ml of acetic acid, to thereby obtain an acidic solution. The obtained acidic solution was evaporated to dryness under reduced pressure, to thereby obtain 1.5 g of Trt-Gly-Phe.

reactant | Gly-Phe | 5 mmol, 1.1 g | C=1C=CC(=CC1)C[C@@H](C(=O)O)NC(=O)CN | C11H14N2O3
reactant | trityl chloride | 6.5 mmol, 1.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | H2O | 2 ml | O | H2O
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
solvent | diethylamine | 1.5 ml | C(C)NCC | C4H11N
product | Trt-Gly-Phe | 1.5 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N2O3
